US05034381
The intermediate from Example 16, N-(p-cyclohexylvinylphenethyl)phthalimide (9.0 g) and 10% palladium on charcoal (0.9 g) in ethyl acetate (700 ml) is shaken with hydrogen at 3 atmospheres pressure over 7 hours. The mixture is filtered and the filtrate concentrated to dryness at reduced pressure to give N-[p-(2-cyclohexylethyl]-phenethyl]-phthalimide, m.p. 135°-138° after recrystallization from ethanol. The phthalimide (5.75 g) is added to a mixture of hydrazine hydrate (1.6 g) in methanol (100 ml) and heated under reflux for 18 hours. The mixture is concentrated to dryness at reduced pressure, made basic with cold concentrated aqueous potassium hydroxide and extracted with ethyl acetate. The organic extract is washed with water, then brine, dried over sodium sulphate and concentrated to dryness at reduced pressure to give the desired amine as an oil which gradually solidifies on standing.

reactant | N-(p-cyclohexylvinylphenethyl)phthalimide | 9.0 g | C1(CCCCC1)C=CC1=CC=C(CCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C24H25NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.9 g | [Pd] | Pd
solvent | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
product | N-[p-(2-cyclohexylethyl]-phenethyl]-phthalimide | C1(CCCCC1)CCC1=CC=C(CCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C24H27NO2
